US04879300
(A) 2-(1-dimethylamino ethyl)pyridine
A suspension of g 1.21 (0.01 moles) of 2-acetylpyridine, 1.63 (0.02 moles) of dimethylamine hydrochloride, g 0.63 (0.01 moles) of NaCNBH3 and g 0.4 (0.01 moles) of NaOH in ml.80 of dry methanol was stirred at room temperature for 4 days. The insoluble matter was filtered off and the filtrate was made strongly alkaline with 15% aqueous NaOH. After evaporation of the mathanol, some NaOH pellets were added into the aqueous residue, and the solution was extracted with ether. The combined ethereal solutions were dried on solid NaOH and evaporated i.v. The oily residue (gr 2.8) was chromatographed on 12 g. of silicagel, eluting with CH2Cl2 containing 2% to 10% methanol. 1.7 g. of oily product were obtained, sufficiently pure for the subsequent step.

reactant | 2-acetylpyridine | C(C)(=O)C1=NC=CC=C1 | C7H7NO
reactant | dimethylamine hydrochloride | Cl.CNC
reactant | NaCNBH3 | [BH3-]C#N.[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-(1-dimethylamino ethyl)pyridine | CN(C(C)C1=NC=CC=C1)C | C9H14N2
